US08138173B2
2-Phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinoline-one (574 mg, 2.20 mmol) was combined with N,N,N′N′-tetramethylethylenediamine (1.5 mL), and tetrahydrofuran (24 mL) under an atmosphere of nitrogen. The mixture was chilled to 0° C. A solution of n-butyllithium in hexanes (2.0 mL of 2.5 M) was added dropwise. After the addition was complete the reaction mixture was stirred for 5 minutes at 0° C. and then cooled to −78° C. To the cooled solution was added tert-butyl 4-(2-oxoethyl)piperidine-1-carboxylate (1.0 g, 4.4 mmol). The reaction mixture was warmed to ambient temperature and stirred for 30 minutes before quenching with saturated aqueous ammonium chloride. The aqueous layer was extracted with chloroform. The combined organic extracts were dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford a yellow oil. The oil was purified by automated flash chromatography (AnaLogix, eluted with a gradient of 0-30% CMA in chloroform) to provide an oily solid. The oily solid was stirred in acetonitrile and filtered to provide 450 mg of tert-butyl 4-[2-hydroxy-2-(4-oxo-2-phenyl-4,5-dihydro-2H-pyrazolo[3,4-c]quinolin-1-yl)ethyl]piperidine-1-carboxylate as a white solid, mp 253-254° C. MS (APCI) m/z 489 (M+H)+; Anal. calcd for C28H32N4O4: C, 68.83; H, 6.60; N, 11.47. Found: C, 68.49; H, 6.83; N, 11.67.

reactant | 2-Phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinoline-one | 2.20 mmol, 574 mg | C1(=CC=CC=C1)N1NC=2CNC=3C=CC=CC3C2C1=O | C16H13N3O
reactant | tetrahydrofuran | 24 mL | O1CCCC1 | C4H8O
reactant | n-butyllithium | C(CCC)[Li]
reactant | tert-butyl 4-(2-oxoethyl)piperidine-1-carboxylate | 4.4 mmol, 1.0 g | O=CCC1CCN(CC1)C(=O)OC(C)(C)C | C12H21NO3
solvent | acetonitrile | C(C)#N | C2H3N
product | tert-butyl 4-[2-hydroxy-2-(4-oxo-2-phenyl-4,5-dihydro-2H-pyrazolo[3,4-c]quinolin-1-yl)ethyl]piperidine-1-carboxylate | 450 mg | OC(CC1CCN(CC1)C(=O)OC(C)(C)C)C=1N(N=C2C(NC=3C=CC=CC3C21)=O)C2=CC=CC=C2 | C28H32N4O4
